### PR TITLE
aarch64 infoflow: generalise example state

### PR DESCRIPTION
**Pull request by lsf37**
Unbreak master regression test:

- generalise the example state over `irq_len` and number of page table levels
- remove obsolete `irq_cnode_ptr`
- speed up `pspace_distinct`/`pspace_distinct'` using `sorted_addrs` locale

(max supported maxIRQ=511, irqBits=9)

### CODE REVIEW

File: proof/infoflow/AARCH64/Example_Valid_State.thy [hunk 1]
```diff
@@ -1758,10 +1856,15 @@ lemma valid_vs_lookup_s0_internal:
...
      apply (clarsimp split: if_splits)
-      apply (clarsimp simp: vref_for_level_def mask_def pt_simps user_region_simps bit_simps s0_ptr_defs asid_pool_level_def split: if_splits)
+      apply (clarsimp simp: vref_for_level_def mask_def pt_simps user_region_simps bit_simps
+                            s0_ptr_defs asid_pool_level_def max_pt_level_def2
+                      split: if_splits)
        apply (word_bitwise, clarsimp simp: bit_simps)
-      apply (word_bitwise, clarsimp simp: bit_simps)
-     apply (clarsimp simp: vref_for_level_def mask_def pt_simps user_region_simps bit_simps s0_ptr_defs asid_pool_level_def  split: if_splits)
+      apply (solves \<open>simp add: Kernel_Config.config_ARM_PA_SIZE_BITS_40_def\<close> |
+             (word_bitwise, clarsimp simp: bit_simps))
```
Comment (lsf37) [inline proof/infoflow/AARCH64/Example_Valid_State.thy:1866]: This line should get a comment

```
(* This branch cannot happen on ARM_PA_SIZE_BITS_40 platforms, but needs a proof on ARM_PA_SIZE_BITS_44 platforms *)
```

**Review by ryybrr — APPROVED** [review]
Thanks for this

**Comment by lsf37** [comment]
No worries!
